US06884821B1
2.33 ml ethyl 2-chloroacetoacetate and 1.5 g thiopropionamide were dissolved in 30 ml ethanol, followed by stirring at room temperature for 16 hours. The reaction solution was ice-cooled and water was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=14:1), to give 0.8 g of ethyl 2-ethyl-5-methyl-1,3-thiazole-4-carboxylate.

reactant | ethyl 2-chloroacetoacetate | 2.33 ml | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | thiopropionamide | 1.5 g | C(CC)(=S)N | C3H7NS
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 2-ethyl-5-methyl-1,3-thiazole-4-carboxylate | 0.8 g | C(C)C=1SC(=C(N1)C(=O)OCC)C | C9H13NO2S
